US08193178B2
Step C: 2-Amino-6,7,8,9-tetrahydro-1H-benzo[4,5]thieno[3,2-d]pyrimidin-4-one
A 48 mL sealed tube was charged with 3-amino-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid ethyl ester (2.8 g, 12.3 mmol), chloroformamidine hydrochloride (2.0 g, 17.2 mmol), and diethylene glycol dimethyl ether (24.6 mL). The tube was sealed and heated to 160° C. for 12 h with vigorous stirring. Filtration afforded the desired compound as a beige solid (2.6 g). MS: No signal. 1H NMR (400 MHz, d6-DMSO) δ ppm 2.84-2.73 (m, 2H), 2.58-2.51 (m, 2H), 1.89-1.70 (m, 4H).

reactant | 3-amino-4,5,6,7-tetrahydro-benzo[b]thiophene-2-carboxylic acid ethyl ester | 12.3 mmol, 2.8 g | C(C)OC(=O)C1=C(C2=C(S1)CCCC2)N | C11H15NO2S
reactant | chloroformamidine hydrochloride | 17.2 mmol, 2.0 g | Cl.ClC(=N)N
solvent | diethylene glycol dimethyl ether | 24.6 mL | COCCOCCOC | C6H14O3
product | 2-Amino-6,7,8,9-tetrahydro-1H-benzo[4,5]thieno[3,2-d]pyrimidin-4-one | 2.6 g | NC1=NC(C2=C(N1)C1=C(S2)CCCC1)=O | C10H11N3OS
